US03979416
A mixture of 21.1. g of 4-nitrophthalic acid and 50.0 g of acetic anhydride were heated at reflux for 6 hours, following which the acetic acid was removed by distillation at atmospheric pressure. The excess acetic anhydride was removed by distillation at 15 mm Hg pressure with the flask temperature not exceeding 120°C, leaving a quantitative yield of crude 4-nitrophthalic anhydride, m.p. 114°-116°C. The product was recrystallized from chloroform to afford a 93% yield of product, m.p. 123°-124°C, identical to that of Example 1.

reactant | 4-nitrophthalic acid | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H5NO6
reactant | acetic anhydride | 50.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-nitrophthalic anhydride | quantitative yield | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
